US06063790
To 0.97 g (~0.01 mole) of freshly prepared N-methylaniline (b.p. 196° C.) is added 1.94 g (~0.01 mole) of 2-chlorobenzenesulfonyl chloride (98 w/w %). The mixture is stirred until it becomes hot, and then ten percent sodium hydroxide is added dropwise with stirring until the solution is slightly alkaline. 2-chloro-N-methylbenzenesulfonanilide is formed as a viscous yellow liquid. It is washed with water several times until the wash water is neutral to litmus paper, and the viscous yellow liquid extracted with ether. The ether layer is dried over magnesium sulfate, filtered and the solvent removed by evaporation. The yield of a yellow oil is 2.2 g (87% yield).

reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
reactant | 2-chlorobenzenesulfonyl chloride | ~0.01 mole, 1.94 g | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-chloro-N-methylbenzenesulfonanilide | 87% yield | ClC1=C(C=CC=C1)S(=O)(=O)N(C1=CC=CC=C1)C | C13H12ClNO2S
